US05919795
4'-Trifluoromethyl-biphenyl-2-carboxylic acid (1,2,3,4tetrahydroisoquinolin-6-yl)-amide
4 g (8 mmol) of 6-[(4'-trifiuoromethyl-biphenyl-2-carbonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester and 6 ml (78 mmol) of TFA were mixed in 60 ml of methylene chloride for 5 hrs. 40 ml of methylene chloride was added and organic was extracted with 3×50 ml of saturated sodium bicarbonate and brine. Organic layer was dried over sodium sulfate and concentrated to yield 3.1 gm of solid.

reactant | 6-[(4'-trifiuoromethyl-biphenyl-2-carbonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 8 mmol, 4 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H27F3N2O3
reactant | TFA | 78 mmol, 6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4'-Trifluoromethyl-biphenyl-2-carboxylic acid (1,2,3,4tetrahydroisoquinolin-6-yl)-amide | 3.1 gm | C1NCCC2=CC(=CC=C12)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O
